US04294960
A suspension of 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-n-propoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 2.4 g.), 10% palladium carbon (1.0 g.), methanol (24 ml.), water (3.6 ml.) and tetrahydrofuran (48 ml.) was subjected to catalytic reduction under ordinary pressure at room temperatures. After removing insoluble substance by filtration, the filtrate was concentrated in vacuo. Water and ethyl acetate were added to the residue, and adjusted to pH 8 with a saturated aqueous solution of sodium bicarbonate. The insoluble substance was removed by filtration, and the aqueous layer was separated. Ethyl acetate was added to the solution, adjusted to pH 2.0 with hydrochloric acid and extracted with ethyl acetate. The ethyl acetate solution and extract were combined together, washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solution was concentrated in vacuo, and the residue was triturated with diethyl ether and collected by filtration to give 7-[2-(2-formamidothiazol-4-yl)-2-n-propoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 1.6 g.).

reactant | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-n-propoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate | 2.4 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCCC | C23H21ClN6O8S2
reactant | methanol | 24 ml | CO | CH4O
reactant | water | 3.6 ml | O | H2O
catalyst | palladium carbon | 1.0 g | [C].[Pd]
solvent | tetrahydrofuran | 48 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-formamidothiazol-4-yl)-2-n-propoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid | 1.6 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOCCC | C16H16ClN5O6S2
